US07875645B2
rac-2-[1-(3-Chloro-phenyl)-propyl]-4,5-dihydro-1H-imidazole was prepared from 2-(3-chloro-phenyl)-butyronitrile and ethylene diamine in analogy to Example 22: colourless powder;MS (ISP): 223.0 ((M+H)+.).

reactant | 2-(3-chloro-phenyl)-butyronitrile | ClC=1C=C(C=CC1)C(C#N)CC | C10H10ClN
reactant | ethylene diamine | C(CN)N | C2H8N2
product | rac-2-[1-(3-Chloro-phenyl)-propyl]-4,5-dihydro-1H-imidazole | ClC=1C=C(C=CC1)C(CC)C=1NCCN1 | C12H15ClN2
